US04558067
To a solution of 6-acetoxy-7-hydroxymethyl-3,4-dihydrobenzopyran acetate (1.00 g, 3.78 mmol) in dry dimethylformamide (5 mL) was added a solution of potassium p-acetylthiophenoxide (720 mg, 3.8 mmol) in dimethylformamide (5 mL). The mixture was heated at 50° C. for 2.25 hours, then poured into ice water (75 mL). Sodium hydroxide (10% aqueous, 20 mL) was added, then mixture allowed to stir for 30 minutes, then acidified with 2N hydrochloric acid and extracted with ethyl acetate (3×50 mL). The combined extracts were washed with 7% NaHCO3, and brine (2x), dried (Na2SO4) and concentrated. The crude product was purified by preparative HPLC (30% ethyl acetate hexane as eluant and recrystallized from ethyl acetate hexane to afford 6-hydroxy-7-(4-acetylphenyl)thiomethyl-3, 4-dihydrobenzopyran as a white solid (172 mg), m.p. 192°-193° C.

reactant | 6-acetoxy-7-hydroxymethyl-3,4-dihydrobenzopyran acetate | 3.78 mmol, 1.00 g | C(C)(=O)O.C(C)(=O)OC=1C(=CC2=C(CCCO2)C1)CO
reactant | potassium p-acetylthiophenoxide | 3.8 mmol, 720 mg | C(C)(=O)C1=CC=C([S-])C=C1.[K+]
reactant | Sodium hydroxide | 20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-hydroxy-7-(4-acetylphenyl)thiomethyl-3, 4-dihydrobenzopyran | 172 mg | OC=1C(=CC2=C(CCCO2)C1)CSC1=CC=C(C=C1)C(C)=O | C18H18O3S
